US05705492
Coupling of 1-[5-[2(S)-(2,4,6-trichloro-3-methoxyphenoxy)-propionamido]-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl]-5-ethyluracil with N-Boc-L-valine in a manner analogous to that described in Example 1(A) gave 1-[3-O-[N-(tert-butoxycarbonyl)-L-valyl]-5-[2(S)-(2,4,6-trichloro-3-methoxyphenoxy)-propionamido]-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl]-5-ethyluracil as a white solid, m.p. 147°-149° C.

reactant | 1-[5-[2(S)-(2,4,6-trichloro-3-methoxyphenoxy)-propionamido]-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl]-5-ethyluracil | ClC1=C(O[C@H](C(=O)NC[C@@H]2[C@H]([C@@H]([C@@H](O2)N2C(=O)NC(=O)C(=C2)CC)F)O)C)C(=CC(=C1OC)Cl)Cl | C21H23Cl3FN3O7
reactant | N-Boc-L-valine | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
product | 1-[3-O-[N-(tert-butoxycarbonyl)-L-valyl]-5-[2(S)-(2,4,6-trichloro-3-methoxyphenoxy)-propionamido]-2,5-dideoxy-2-fluoro-β-D-arabinofuranosyl]-5-ethyluracil | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1CNC([C@H](C)OC1=C(C(=C(C=C1Cl)Cl)OC)Cl)=O)N1C(=O)NC(=O)C(=C1)CC)F | C31H40Cl3FN4O10
